US07851626B2
4-Chloro-2-ethoxybenzoic acid (9.4 g, 47 mmol) was added in several portions to cold chlorosulfonic acid (55 mL, Aldrich) stirring at 0-10° C., and the resulting solution was heated at ˜60° C. for 2 h. The resulting dark solution was poured into ice (800 g), and then 500 mL of dichloromethane was added. After stirring for 15 min, the layers were separated and the aqueous layer was extracted with 200 mL of dichloromethane. The organic layers were washed in turn with brine, combined, dried over magnesium sulfate, filtered, and concentrated at room temperature. Crystallization from ether/hexane gave 3.4 g of 4-chloro-5-chlorosulfonyl-2-ethoxybenzoic acid.

reactant | 4-Chloro-2-ethoxybenzoic acid | 47 mmol, 9.4 g | ClC1=CC(=C(C(=O)O)C=C1)OCC | C9H9ClO3
reactant | chlorosulfonic acid | 55 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-chloro-5-chlorosulfonyl-2-ethoxybenzoic acid | 3.4 g | ClC1=CC(=C(C(=O)O)C=C1S(=O)(=O)Cl)OCC | C9H8Cl2O5S
